US09216173B2
A mixture of Hunig's base (2.69 ml, 15.4 mmol), 3-bromo-5-fluoropyridine-2-carbonitrile (1.55 g, 7.69 mmol), tert-butyl rel-[(3S,4S)-3-amino-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]carbamate (2.51 g, 9.50 mmol) in NMP (8 ml) was heated to 150° C. for 30 minutes. The reaction mixture was diluted with water (50 mL) and stirred. The reaction mixture was filtered, and the collected solids were washed with cold water. The solids were dried under reduced pressure to afford tert-butyl rel-{(3S,4S)-3-[(5-bromo-6-cyanopyridin-3-yl)amino]-1,1-dioxidotetrahydro-2H-thiopyran-4-yl}carbamate. MS ESI calc'd. for C16H22BrN4O4S [M+H]+ 445 and 447. found 445 and 447.

reactant | Hunig's base | 15.4 mmol, 2.69 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-bromo-5-fluoropyridine-2-carbonitrile | 7.69 mmol, 1.55 g | BrC=1C(=NC=C(C1)F)C#N | C6H2BrFN2
reactant | tert-butyl rel-[(3S,4S)-3-amino-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]carbamate | 9.50 mmol, 2.51 g | N[C@@H]1CS(CC[C@@H]1NC(OC(C)(C)C)=O)(=O)=O | C10H20N2O4S
solvent | NMP | 8 ml | CN1CCCC1=O | C5H9NO
solvent | water | 50 mL | O | H2O
product | tert-butyl rel-{(3S,4S)-3-[(5-bromo-6-cyanopyridin-3-yl)amino]-1,1-dioxidotetrahydro-2H-thiopyran-4-yl}carbamate | BrC=1C=C(C=NC1C#N)N[C@@H]1CS(CC[C@@H]1NC(OC(C)(C)C)=O)(=O)=O | C16H21BrN4O4S
